US07495004B2
7-(2-Chloro-6-fluorobenzyl)-8-cyclohexyl-1,3-dimethyl-3,7-dihydro-1H-purine-2,6-dione
A solution of 5,6-diamino-1,3-dimethyluracil hydrate (1 g, 5.9 mmol) and 2,3-dichloro-5,6-dicyanoquinone (1.34 g, 5.9 mmol) in 15 mL acetonitrile was treated with cyclohexane carboxaldehyde (0.71 mL, 5.9 mmol). The reaction mixture was stirred at room temperature for 15 hrs and then treated with 0.5 M NaOH (24 mL) and stirred an additional 48 hrs. The precipitate was filtered and dried (345 mg, 22% yield). A solution of the precipitate (200 mg, 0.76 mmol) and K2CO3 (105 mg, 0.76 mmol) was treated with 2-chloro-6-fluorobenzyl bromide (187 mg, 0.84 mmol) dissolved in 1 mL DMF. The reaction mixture was heated in a sealed vial to 60° C. for 24 hrs. An additional 28 mg K2CO3 and 51 mg 2-chloro-6-fluorobenzyl bromide was added to the reaction and the reaction mixture was heated in a sealed vial to 60° C. for another 24 hrs. The reaction mixture was cooled and, upon addition of water, the resulting precipitate was collected by filtration. The crude product was purified by flash chromatography (silica gel cartridge, Biotage, 32-63 □m, 60 Å) with 33% EtOAc:hexanes as the eluent to afford 134 mg (44% yield) of the title compound as a tan solid: 1H NMR (CDCl3, 400 MHz) 7.30-7.20 (m, 2H), 7.01-6.94 (m, 1H), 5.90 (s, 2H), 3.60 (s, 3H), 3.40 (s, 3H), 2.64-2.53 (m, 1H), 1.79-1.53 (m, 5H), 1.42-1.05 (m, 5H); MS (ESP+) m/e 405 (MH+); TLC (EtOAc:hexanes/1:1) Rf=0.59.

reactant | 5,6-diamino-1,3-dimethyluracil hydrate | 5.9 mmol, 1 g | O.NC=1C(N(C(N(C1N)C)=O)C)=O
reactant | cyclohexane carboxaldehyde | 5.9 mmol, 0.71 mL | C1(CCCCC1)C=O | C7H12O
reactant | NaOH | 0.5 M, 24 mL | [OH-].[Na+]
reactant | K2CO3 | 0.76 mmol, 105 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloro-6-fluorobenzyl bromide | 0.84 mmol, 187 mg | ClC1=C(CBr)C(=CC=C1)F | C7H5BrClF
reactant | K2CO3 | 28 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloro-6-fluorobenzyl bromide | 51 mg | ClC1=C(CBr)C(=CC=C1)F | C7H5BrClF
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-(2-Chloro-6-fluorobenzyl)-8-cyclohexyl-1,3-dimethyl-3,7-dihydro-1H-purine-2,6-dione | 134 mg, 44% yield | ClC1=C(CN2C(=NC=3N(C(N(C(C23)=O)C)=O)C)C2CCCCC2)C(=CC=C1)F | C20H22ClFN4O2
